* C:\Users\sdeep\OneDrive\Desktop\Circuit Simulation\Basic 1st Circuit.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N001 0 SINE(0 10 60)
R1 N003 0 100
C1 N003 N002 10µ
D1 N001 N002 D
.model D D
.lib C:\Users\sdeep\AppData\Local\LTspice\lib\cmp\standard.dio
.tran .2
.backanno
.end
